Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],4.55828219201
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.96323832086
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],3.57334560227
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12],4.69109667374
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.19382781967
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.9527022372
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[C:8]([H:9])([H:10])[H:11],2.28209603105
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.09809455231
[H:19].[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.52787666456
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][C:12]([H:13])([H:14])[H:15],1.75547795994
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[H:8]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-3.84922582404
[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.54364103699
[O:1]=[C:2]([C:3][H:4])[C:9]([C:7](=[C:5][H:6])[H:8])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10],-5.87512576779
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:9])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[O:9][C:10]1[H:11],1.37846569085
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7]([H:8])([H:9])[O:10][H:11],4.06788215328
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-10.6593129264
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.85995230712
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.2601443859199999
[H:1][O:2][C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.28888342683
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.08381160236
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][H:12],1.6424920765600002
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-1.09782045238
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6],1.12745964
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1],3.86119418463
[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9],-0.765200124681
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],1.09879391435
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.7265107647
[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10])[O:11][H:12].[H:4]>>[H:1][O:2][C:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[O:11][H:12],-1.44465396212
